US06414149B1
(R)-1-(4-Chloro-pyrimidin-2-yl)-ethyl butyrate
(R)-2-(1-Butyryloxy-ethyl)-3H-pyrimidin-4-one (prepared according to the method of Preparation Fourteen, 3.00 g, 16.5 mmol) was added to phosphorus oxychloride (10 mL) at ambient temperature and stirred for 3 h. Excess phosphorus oxychloride was removed under vacuum and the resulting oil was partitioned between dichloromethane and saturated aqueous sodium carbonate. The layers were separated and the organic layer was washed once with water, once with saturated aqueous sodium chloride and dried over magnesium sulfate and filtered. The filtrate was evaporated to give the title compound as an orange oil, 3.19 g (85%). 1H NMR (CDCl3, 300 MHz) δ0.98 (t, 3H), 1.54 (d, 3H), 1.67 (m, 2H), 2.48 (t, 2H), 5.68 (q, 1H), 6.36 (d, 1H), 8.21 (d, 1H); [α]D +27.6 (c 1.0, MeOH).

reactant | (R)-2-(1-Butyryloxy-ethyl)-3H-pyrimidin-4-one | C(CCC)(=O)O[C@H](C)C1=NC=CC(N1)=O | C10H14N2O3
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (R)-1-(4-Chloro-pyrimidin-2-yl)-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C10H13ClN2O2
